US06723745B2
The obtained 3-cyclohexyloxypropan-1-ol (11.5 g, 72.9 mmol) was dissolved in dichloromethane (240 ml), and then molecular sieve 4 Å (58 g) and pyridinium chlorochromate (23.8 g, 0.11 mol) were added thereto in the ice bath followed by stirring under a nitrogen atmosphere for 1 hour and 40 minutes. The reaction solution was diluted with ether, and then the solution was filtered through Celite. The Celite was washed with diethyl ether, and this filtrate was added to the previous filtrate. The total filtrate was evaporated in vacuo, and the residue was purified roughly by chromatography on a silica gel column (elution solvent; n-hexane:ethyl acetate=20:1-10:1) to give a crude 3-cyclohexyloxypropionaldehyde (8.6 g).

reactant | 3-cyclohexyloxypropan-1-ol | 72.9 mmol, 11.5 g | C1(CCCCC1)OCCCO | C9H18O2
reactant | pyridinium chlorochromate | 0.11 mol, 23.8 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-cyclohexyloxypropionaldehyde | 8.6 g | C1(CCCCC1)OCCC=O | C9H16O2
